US06150352
Step 3.3A 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-isocyanato-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid 2-trimethylsilanyl-ethyl ester
To a solution of 2-{2-[6-amino-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid 2-trimethylsilanylethyl ester (from EXAMPLE 3.2B, 90 mg in a mixture of 1 mL chloroform and 1 mL water containing 47 mg calcium carbonate) at 0° C. was added 46 mg triphosgene and the mixture allowed to warm slowly to room temperature. After 2 hours, the reaction was quenched by the addition of 2N hydrochloric acid, extracted with methylene chloride and the organics dried over sodium sulfate to give the crude title compound (94 mg).

reactant | 2-{2-[6-amino-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid 2-trimethylsilanylethyl ester | C[Si](CCOC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)N)Cl)=O)C1=CC(=CC(=C1)C)C)(C)C | C30H40ClN3O4Si
reactant | triphosgene | 46 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 1 mL, 47 mg | O | H2O
product | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-isocyanato-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid 2-trimethylsilanyl-ethyl ester | 94 mg | C[Si](CCOC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)N=C=O)Cl)=O)C1=CC(=CC(=C1)C)C)(C)C | C31H38ClN3O5Si
